US07157491B2
5-Iodo-7-methyl-benzofuran
To a 1 L 3-neck flask was added PPA (2.0 g), anhydrous chlorobenzene (300 ml) and the mixture was brought to reflux. Then 1-(2,2-dimethyoxy-ethoxy)-4-iodo-2-methyl benzene (11.16 g, 34.66 mmol) in chlorobenzene (80 ml) was slowly added by addition funnel over a 2 h period. The reaction was then cooled and passed through a silica plug (washed with chlorobenzene) and concentrated to a mixture of product plus 4-iodo-2-methylphenol. Column chromatography (100% hexane) afforded 4.49 g (53%) product as a clear oil: 1H NMR (300 MHz, DMSO-d6): δ 2.44 (3H, s), 6.91 (1H, d, J=2.2 Hz), 7.46 (1H, brs), 7.86 (1H, d, J=1.2 Hz), 8.00 (1H, d, J=2.2 Hz); MS (E) m/z 258 ([M]+).

reactant | 1-(2,2-dimethyoxy-ethoxy)-4-iodo-2-methyl benzene | 34.66 mmol, 11.16 g | COC(COC1=C(C=C(C=C1)I)C)OC | C11H15IO3
solvent | chlorobenzene | 80 ml | ClC1=CC=CC=C1 | C6H5Cl
solvent | chlorobenzene | 300 ml | ClC1=CC=CC=C1 | C6H5Cl
product | 5-Iodo-7-methyl-benzofuran | 4.49 g, 53% | IC=1C=C(C2=C(C=CO2)C1)C | C9H7IO
